Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
UTI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with paranoid schizophrenia who is non-verbal and 
minimally cooperative/interactive presents from ___ 
___ for abnormal labs. Patient has a h/o psychogenic 
polydipsia and was found to have Na 128 -> 122. She was also 
incontinent of urine and stool, with report of frequent loose 
BMs. ___ also reports that she has also had 3 falls, 
reportedly in a "controlled manner" and was medically cleared at 
___ on ___. BP reported to be low at 77/45, 81/45 at 
___ and pt afebrile.
.  
Per her daughter, when she's at her best she can walk with a 
walker (but very unsteady). Can speak ___ and ___ but 
when she's sick she only speaks ___. When daughter last saw 
her 3 weeks ago she was speaking fine. At her worst, she is 
violent and physically abusive (kind of manic per daughter). 
.
In the ED, initial vs were: 97.2 80 113/54 18 100. Patient was 
combative and spitting, got haldol. Also given ciprofloxacin for 
? UTI and admitted.
.  
On the floor, pt is hemodynamically stable, follows simple 
commands, mostly nonverbal (did tell me to "get the hell out" at 
one point)
.  
Review of sytems: unable to obtain 

 
Past Medical History:
paranoid schizophrenia  
DM  
asthma  
HTN  
HL  
urinary retention 
several UTI recently ___ catheters
 
Social History:
___
Family History:
unable to obtain 
 
Physical Exam:
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation anteriorly
CV: Regular rate and rhythm, distant heart sounds
Abdomen: soft, ?tender as pt got angry at me when I touched her 
abdomen but tolerated the rest of the exam, obese, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: per ___ pt has rash on buttocks but could not turn 
pt over by myself (pt mostly uncooperative) 
Neuro: pt blinks and squeezes my hands on command. will not 
stick out her tongue or point her toes. tracks me as I walk 
around the room with her eyes. spoke to me x3: once to say "get 
the hell out" when I examined her abd, and then also said "yes" 
when I asked if I could look at her feet and then commented that 
she was cold with the blanket off. 
 
Pertinent Results:
___ 09:55AM BLOOD WBC-12.0* RBC-3.90* Hgb-12.2 Hct-35.0* 
MCV-90 MCH-31.2 MCHC-34.7 RDW-12.8 Plt ___
___ 09:55AM BLOOD Neuts-82.9* Lymphs-11.8* Monos-3.7 
Eos-1.0 Baso-0.5
___ 08:00AM BLOOD ___ PTT-21.6* ___
___ 09:55AM BLOOD Glucose-222* UreaN-15 Creat-1.3* Na-134 
K-4.1 Cl-94* HCO3-26 AnGap-18
___ 08:00AM BLOOD Glucose-260* UreaN-10 Creat-1.0 Na-136 
K-3.7 Cl-100 HCO3-23 AnGap-17
___ 09:55AM BLOOD ALT-47* AST-41* LD(___)-209 AlkPhos-165* 
TotBili-0.3
___ 08:00AM BLOOD ALT-36 AST-24 LD(___)-190 AlkPhos-165* 
TotBili-0.3
___ 08:00AM BLOOD Albumin-3.8 Calcium-9.3 Phos-2.3* Mg-1.8
___ 09:55AM BLOOD Carbamz-6.1
___ 10:15AM BLOOD Glucose-216* Na-133* K-4.1
___ 10:30PM URINE Blood-LG Nitrite-NEG Protein-150 
Glucose-NEG Ketone-150 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 10:30PM URINE RBC->50 WBC->50 Bacteri-MOD Yeast-NONE 
___

___ Blood culture x1 pending
___ Urine cultures x2 pending

 NSR @ 82, normal axis, borderline low voltage, ? ___ mm STE in 
V1 alone 
 
Brief Hospital Course:
___ y.o female with h.o paranoid schizophrenia, HTN, HL, DM who 
presents with incontinence and abdominal pain and UTI and 
several abscesses s/p large MRSA perirectal abscess drainage in 
the OR. 
.
# R buttock abscess and several other sm buttock and thigh 
abscesses: Surgery consulted and drained large perirectal 
abscess in OR ___ and again ___. Cultures grew MRSA 
sensitive to doxycycline, bactrim, and vancomycin (as well as sm 
amt of corynebacterium). Pt initially started on doxycycline but 
this was transitioned to vancomycin after infectious disease 
consultation. She was transitioned to bactim and will complete a 
full course of this. Pt had several additional abscesses, 
including one on R thigh that was I+Ded at bedside (by surgery). 
Pt had careful wound care to buttock wound to avoid stool 
contamination and foley to avoid keeping the wound wet (pt 
frequently incontinent and retained urine often). However, 
patient did not need a foley near the end of her discharge. 
Prior to discharge patient did not have a foley and her urine 
volume was less than 200 cc. Discharged without a foley. Pt's 
pain was controlled c oxycodone plus dilaudid for dressing 
changes. However, near the end of her discharge, patient 
required minimal pain medication. 
.
# UTI: Pt found to have pan-sensitive pseudomonas. She was 
treated with ciprofloxacin for 5 doses (combination of IV and PO 
as pt sometimes refused PO meds and sometimes pulled out her 
IVs). Her last dose was IM cefepime (as pt refusing POs and had 
no IV access at the time. Repeat UA and Ucx without growth.
.
# abd pain on admission: ? ___ UTI. Pt had ab/pelvis CT on 
admission which was reassuring and abd pain improved c treatment 
of UTI. She continued to have intermittent lower abdominal pain 
when foley was out. Patient intermittently retained urine and 
foley improved her pain. Patient's foley was removed for >48 
hours prior to discharge and she was not retaining, however 
incontinent. She did not have pain. Bladder scan prior to 
discharge was less than 200 cc.
.
# Elevated INR: Pt noted to have elevated INR and low albumin 
and mildly enlarged liver on CT abd/pelvis. Hepatitis serologies 
were negative and INR improved c 3d of vitamin K. 
.
# Constipation: Pt started on miralax, colace, senna, bisacodyl. 

.
# Hypotension on admission: pt's blood pressure meds were held 
and her BP trended up. Enalapril was planned for continuation, 
however she developed a slight increase in her Cr to 1.3 (from 
1.0). She was given fluids prior to discharge as her labs 
appeared hemo-concentrated. Cr should be re-checked two days 
post-discharge in rehab and this medication should be 
re-evaluated.  HCTZ was discontinued.
.
# urinary retention: has been an occasional issue over the past 
___ months per her daughter. The etiology is unclear but 
initially felt to be ___ benztropine which was discontinued 
prior to admission. Haldol and klonopin can both cause urinary 
retention, however, neither of these meds are new to her, make 
this etiology less likely. Pt had foley placed after an episode 
of 900cc of urinary retention. It was initially planned that the 
foley would quickly be discontinued, however, it was ultimately 
continued through most of her admission ___ concern about her 
wound site getting wet as pt is incontinent. However was 
discontinued two days prior to discharge as patient consistently 
pulled it out. She did not retain urine and her dressing changes 
were more frequent (up to ___ times per day) to ensure a clean 
abscess site. Patient tolerated this well. 
  
# psychogenic polydipsia: free water restricted to 2L. Pt did 
not seem interested in drinking excessively during this 
admission.
.
# petichiae: Pt noted to have diffuse petichiae on lower 
extremities and chest. her CBC was checked and was within normal 
limits. Petichiae resolved. 
.  
# Paranoid schizophrenia: Pt was followed by our psychiatry 
department. She was continued on her meds from psych facility 
(haldol, klonopin, celexa, tegretol, zyprexa). Zyprexa and 
haldol were given IM when pt refused PO. Pt has ___ 
guardianship.  EKG showed stable QTc interval.
.  
# DM type 2, uncontrolled: On admission, pt was on sliding 
scale, she had also been discharged on 70/30 though it was 
unclear whether she had been getting 70/30 at her psych 
facility. Pt was started on lantus and humalog sliding scale 
which were titrated up aggressively given her elevated blood 
sugars. She maintainted appropriate blood sugars on regimen of 
44 units of Lantus with HISS.

# Anemia: continued iron supplementation. b12 and folate wnl. 
-Recommend outpt colonoscopy when psychosis improved (this was 
discussed with pt's daughter)

# CKD: at recent baseline, however had small increase in Cr to 
1.3. Likely pre-renal as further labs appeared hemoconcentrated. 
Gave IVFs prior to discharge. Should be rechecked in 2 days for 
further management.
.
# HL: Continued on home simvastatin.  
.
# Communication: Patient and her legal guardian ___ 
___ (pt does also have ___ per report from 
___) 
 
Medications on Admission:
Medications (per ___ list):  
klonopin 0.5 BID
tegretol 200 BID
enalapril 20 qam
simvastatin 20 qam
prilosec 20 daily
haldol 10mg TID (if does not take PO meds, gets 10mg of haldol 
IM)
zyprexa 5mg daily (5mg IM if does not take PO)
lispro sliding scale
asa 81
iron sulfate
zinc oxide to excoriated wound
trazodone 50 prn insomnia
mylanta 30 mL prn
milk of mag 30 ml prn
combivent 2 puffs 4x daily prn
haldol 5mg PO or IV prn psychosis
tylenol prn
guaifenesin prn
 
Discharge Medications:
1. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Carbamazepine 200 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
3. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Haloperidol 10 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for psychosis.  
6. Olanzapine 2.5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily): If cannot tolerate PO, OK to give IM.  
7. Insulin Lispro 100 unit/mL Solution Sig: See below units 
Subcutaneous ASDIR (AS DIRECTED): Please follow sliding scale.  
8. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
9. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
10. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
11. Zinc Oxide     Ointment Sig: ___ cc Topical once a day: 
Please apply topically to wound.  
12. Alum-Mag Hydroxide-Simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed for gerd.  
13. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: Two 
(2) Puff Inhalation Q6H (every 6 hours) as needed for shortness 
of breath or wheezing.  
14. Haloperidol 5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) as needed for psychosis: If not taking PO, OK to give IM. 
 
15. Guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q6H (every 6 
hours) as needed for cough.  
16. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
17. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
18. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day): Please continue to administer 
until patient ambulates.  
19. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily) as needed for constipation.  
20. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
21. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
22. Menthol-Cetylpyridinium 3 mg Lozenge Sig: One (1) Lozenge 
Mucous membrane PRN (as needed) as needed for sore throat.  
23. Zofran 4 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.  
24. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day) as needed for heartburn. 
 
25. Lantus 100 unit/mL Solution Sig: ___ (44) units 
Subcutaneous at bedtime.  
26. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 10 doses.  
27. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.  
28. Outpatient Lab Work
Please check Chem-7 in ___ as patient had mildly elevated 
Creatinine on day of discharge

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Urinary tract infection
___ abscess s/p drainage in OR x 2

Secondary diagnosis:
Diabetes Mellitus type 2
Paranoid Schizophrenia

 
Discharge Condition:
Level of Consciousness: Lethargic but arousable at times, alert 
at other times
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Mental Status: Confused - always

 
Discharge Instructions:
You were admitted to ___ for a urinary tract infection. We 
treated this with an antiobiotic called ciprofloxacin. You were 
also found to have several abscesses including one large 
___ abscess which was drained in the operating room 
under anesthesia twice. You recieved antibiotics for these 
abscesses and will need to continue while you are in rehab. Your 
sugars were very high, which probably made you more likely to 
get abscesses. We increased your insulin regimen. Good control 
of sugars is very important for fighting infection, for your 
heart and nerves and almost all of the rest of your body. 
Lastly, you seemed to be having incontinence with a full bladder 
(called overflow incontinence). You had a bladder catheter 
placed which help your incontinence and also helped keep your 
wound clean, however, you continued to pull it out. We kept it 
out and you appeared to be urinating without diffuclty. Prior to 
discharge we checked the amount of urine in your bladder and it 
appeared you were not retaining very much urine (< 200 cc) You 
may need to have one in intermittently if you continue to hold 
your urine. 

You should take your medications as prescribed with the 
following important changes.
1. CONTINUE: Bactrim DS 1 tablet every 12 hours every day and 
stop on ___
2. INCREASE Lantus to 44 units at bedtime. Please use sliding 
scale for further insulin coverage
3. HOLD Enalapril as you have some mild kidney dysfunction. You 
will have your kidney function monitored and this should be 
re-started once this normalizes.
4. STOP: HCTZ
5. Continue wound care as directed
6. START: Oxycodone as needed for pain
7. Continue Olanzapine and Haldol as directed.

It is important that you keep all of your doctor's appointments

 
Followup Instructions:
___